US04289883
1.0 g of 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril was dissolved in 20 ml of methanol. 0.5 g of anhydrous potassium carbonate and 1.6 g of 2-(3,4-dimethoxyphenyl)ethylamine were added thereto, and the resulting mixture was stirred while refluxing for 2.5 hours. After completion of the reaction, the methanol was evaporated under reduced pressure, and the residue was dissolved in chloroform and then washed with water. The chloroform layer was dried over anhydrous sodium sulfate, and the chloroform evaporated under reduced pressure. The residue was recrystallized from methanol-diethyl ether to obtain 1.1 g of 8-(2-propynyloxy)-5-{3-[2-(3,4-dimethoxyphenyl)ethylamino]-2-hydroxypropoxy}-3,4-dihydrocarbostyril hydrochloride having a melting point of 160°-162° C.

reactant | 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril | 1.0 g | C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CCl)O | C15H16ClNO4
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 1.6 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | methanol | 20 ml | CO | CH4O
product | 8-(2-propynyloxy)-5-{3-[2-(3,4-dimethoxyphenyl)ethylamino]-2-hydroxypropoxy}-3,4-dihydrocarbostyril hydrochloride | 1.1 g | Cl.C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CNCCC1=CC(=C(C=C1)OC)OC)O | InChI=1S/C25H30N2O6.ClH/c1-4-13-32-22-9-8-20(19-6-10-24(29)27-25(19)22)33-16-18(28)15-26-12-11-17-5-7-21(30-2)23(14-17)31-3;/h1,5,7-9,14,18,26,28H,6,10-13,15-16H2,2-3H3,(H,27,29);1H
